US04925861
Preparation of 3-(2-(4-isopropyl-2-thiazolyl))ethenylbenzoic acid (Compound No. 5)
2-(2-(3-Cyanophenyl)ethenyl)-4-isopropylthiazole prepared in Synthetic Example (2.54 g, 10.0 mmol) was dissolved in a mixed solvent of acetic acid (5 ml) and concentrated hydrochloric acid (10 ml) and the resulting mixture was heated under stirring at 100° C. for 4 hours. After water was added, the reaction mixture was extracted with ethyl acetate and dried. The solvent was distilled out to afford the indicated compound (2.51 g) with a yield of 92%.

reactant | 2-(2-(3-Cyanophenyl)ethenyl)-4-isopropylthiazole | C(#N)C=1C=C(C=CC1)C=CC=1SC=C(N1)C(C)C | C15H14N2S
reactant | water | O | H2O
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 3-(2-(4-isopropyl-2-thiazolyl))ethenylbenzoic acid | 2.51 g, yield of 92% | C(C)(C)C=1N=C(SC1)C=CC=1C=C(C(=O)O)C=CC1 | C15H15NO2S
